US06686469B2
P1.10: 6 g of 4-(4-bromophenyl)-2-(2,6-difluorophenyl)-3-methoxypyrimidine
6 g of 4-(4-bromophenyl)-2-(2,6-difluorophenyl)-3-chloropyrimidine, 60 ml of methanol and 3.3 g of methanolic sodium methanolate solution (30%) are boiled under reflux for 24 hours, concentrated by evaporation, and the residue taken up in ethyl acetate and the organic phase washed with water. After drying with magnesium sulfate, filtering and concentrating, the title compound is obtained with a melting point of 104-106° C. (compound 3.350).

reactant | 4-(4-bromophenyl)-2-(2,6-difluorophenyl)-3-chloropyrimidine | 6 g | BrC1=CC=C(C=C1)C=1N(C(N=CC1)C1=C(C=CC=C1F)F)Cl | C16H10BrClF2N2
reactant | sodium methanolate | 3.3 g | C[O-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | 4-(4-bromophenyl)-2-(2,6-difluorophenyl)-3-methoxypyrimidine | BrC1=CC=C(C=C1)C=1N(C(N=CC1)C1=C(C=CC=C1F)F)OC | C17H13BrF2N2O
